US04048182
When n-butyl alcohol is replaced by propane-2-ol and 7-chloro-3,5-dimethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester is processed as described for 3-butyl-7-chloro-5-methyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester in Example 5, 3,5-dimethyl-7-(1-methylethoxy)-3H-imidazo[4,5-b]pyridine-6-carboxylic acid ethyl ester is obtained. Yield 67%, b.p. 170°-175°/0.01. The free acid is obtained as described in Example 9. The potassium salt is obtained by substituting potassium hydroxide for sodium hydroxide in that example.

reactant | n-butyl alcohol | C(CCC)O | C4H10O
reactant | 7-chloro-3,5-dimethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester | ClC1=C2C(=NC(=C1C(=O)OCC)C)N(C=N2)C | C11H12ClN3O2
reactant | 3-butyl-7-chloro-5-methyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester | C(CCC)N1C=NC=2C1=NC(=C(C2Cl)C(=O)OCC)C | C14H18ClN3O2
solvent | propane-2-ol | CC(C)O | C3H8O
product | 3,5-dimethyl-7-(1-methylethoxy)-3H-imidazo[4,5-b]pyridine-6-carboxylic acid ethyl ester | Yield 67% | C(C)OC(=O)C=1C(=C2C(=NC1C)N(C=N2)C)OC(C)C | C14H19N3O3
